US06593330B2
2-[2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethoxy]-6-(1-piperazinyl)pyrazine
The title compound was prepared according to the procedure of example 50, step 2, starting from 2-chloro-6-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]pyrazine [2.90 g, 9.18 mmol; obtained according to the procedure of example 50, step 1, starting from 2-(5-methyl-2-phenyloxazol-4-yl)ethanol], piperazine (2.37 g, 27.5 mmol) and K2CO3 (1.27 g, 9.19 mmol) with the exception that the final filtration through alumina was omitted. The yield of the of the title compound was 2.09 g (62%) which was obtained as a light yellow oil that solidified when refrigerated. Purity 100% (HPLC). MS m/z 365 (M)+. HRMS m/z calcd for C20H23N5O2 (M)+ 365.1852, found 365.1855.

reactant | 2-chloro-6-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]pyrazine | ClC1=NC(=CN=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C16H14ClN3O2
reactant | 2-(5-methyl-2-phenyloxazol-4-yl)ethanol | CC1=C(N=C(O1)C1=CC=CC=C1)CCO | C12H13NO2
reactant | piperazine | 27.5 mmol, 2.37 g | N1CCNCC1 | C4H10N2
reactant | K2CO3 | 9.19 mmol, 1.27 g | C(=O)([O-])[O-].[K+].[K+]
product | 2-[2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethoxy]-6-(1-piperazinyl)pyrazine | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=NC(=CN=C1)N1CCNCC1 | C20H23N5O2
